US08461328B2
(1R,3R)-3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol
To the reaction mixture from the above step containing (1R,3R)-3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino) cyclohexanol (8.65 mmol) in isopropyl alcohol (30 mL) was added 10% Palladium on activated carbon (718 mg). The reaction mixture was then capped with a 3 way glass valve with a hydrogen gas balloon. The flask was opened to vacuum for two minutes, followed by opening to hydrogen. This purge/flush cycle was repeated 3 times before stirring under a hydrogen atmosphere at room temperature for 2 days. LC/MS showed that the reaction went to completion. The reaction mixture was then filtered through celite 545 and concentrated to give a black foamy solid, which was used as is for the next step. LCMS (Method M, ESI): RT=1.44 min, m+H=386.8.

reactant | (1R,3R)-3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino) cyclohexanol | 8.65 mmol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@H]2C[C@@H](CCC2)O)[N+](=O)[O-] | C19H20N4O5S
reactant | hydrogen | [H][H] | H2
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
catalyst | Palladium on activated carbon | 718 mg | [Pd] | Pd
product | (1R,3R)-3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)N[C@H]2C[C@@H](CCC2)O | C19H22N4O3S
